US06046201
1-Formyl-4-isopropylpiperazine
To a solution of 1.02 g of formylpiperazine in 90 ml of acetone was added 0.1 g of 5% palladium carbon and the mixture was stirred under hydrogen atmosphere for 60 hours. The catalyst was filtered off and distilled off under reduced pressure to afford 1.31 g of the title compound.

reactant | formylpiperazine | 1.02 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | acetone | 90 ml | CC(=O)C | C3H6O
catalyst | palladium carbon | 0.1 g | [C].[Pd]
product | 1-Formyl-4-isopropylpiperazine | 1.31 g | C(=O)N1CCN(CC1)C(C)C | C8H16N2O
